US06369235B1
Methyl 2-(2,6-difluorophenyl)benzimidazole-2-carboxylate (4004) (16.15 g, 56.0 mmol) was reacted with 2,6-difluoro-α-bromo-toluene (14.67 g, 70.86 mmol, 125 M%). The crude product was purified by flash chromatography eluting with 2% MeOH/CH2Cl2, and recrystallization from diethylether, yielding white crystals of methyl 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)benzimidazole-2-carboxylate (4005) (17.63 g, 42.55 mmol, 76% yield). M.p. 185-186° C. 1H-NMR (200 MHz, CD2Cl2) δ7.94 (dd, J=1.1, 7.6 Hz, 1H, H5), 7.72 (dd, J=1.1, 8.2 Hz, 1H, H7), 7.56 (m, 1H, H4′), 7.37 (dd, J=7.6, 8.2 Hz, 1H, H6), 7.26 (m, 1H, H4″), 7.09 (m, 2H, H3′,5′), 6.82 (m, 2H, H3″,5″), 5.39 (s, 2H, CH2PhF2), 3.95 (s, 3H, CO2CH3).

reactant | Methyl 2-(2,6-difluorophenyl)benzimidazole-2-carboxylate | 56.0 mmol, 16.15 g | FC1=C(C(=CC=C1)F)C1(N=C2C(=N1)C=CC=C2)C(=O)OC | C15H10F2N2O2
reactant | 2,6-difluoro-α-bromo-toluene | 70.86 mmol, 125 M, 14.67 g | FC1=C(C(=CC=C1)F)CBr | C7H5BrF2
product | methyl 1-(2,6-difluorobenzyl)-2-(2,6-difluorophenyl)benzimidazole-2-carboxylate | 42.55 mmol, 17.63 g, 76% yield | FC1=C(CN2C(NC3=C2C=CC=C3)(C(=O)OC)C3=C(C=CC=C3F)F)C(=CC=C1)F | C22H16F4N2O2
